trab 3


.options savecurrents

.param n=1/18.41351
.param xC1=1u
.param xR2=0.5k


*transformer
Vprimario 0 ze dc 0 ac 230 SINE(0 230 50 0 0 0)
E1 1 0 0 ze n

*full wave rectifier
D1 1 4 Default
D2 0 1 Default
D3 0 2 Default
D4 2 4 Default


*envelope detector
C1 4 0 xC1

R2 4 6 xR2


*limiter
D5 6 0 Nd


*setting up models
.model Default D
.model Nd D(N=31)

.op
.end

*transient analysis
.tran 2e-4 6.8 6.6

*calculating averages
.measure tran av_volt_6 AVG v(6) from=6.6 to=6.8
.measure tran abs_av_volt param='abs(av_volt_6-12)'

*maximum and minimum values
.measure tran maxvolt_6 MAX v(6) from=6.6 to=6.8
.measure tran minvolt_6 MIN v(6) from=6.6 to=6.8
.measure tran ripples param='abs(maxvolt_6 - minvolt_6)'
.measure tran cost param='(31+4)*0.1 + (xC1)*10^6 + (xR2)*10^(-3)'
.measure tran merit param='1 / (cost * (ripples + abs_av_volt + 10^(-6)))'


.control
run
*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

echo "********************************************"
echo "Transient analysis"
echo "********************************************"


hardcopy antes.ps v(4)
echo antes_FIG
hardcopy zauzau.ps v(6)
echo zauzau_FIG
hardcopy deviation.ps v(6)-12
echo deviation_FIG
hardcopy acdc.ps v(6) v(ze)
echo acdc_FIG

.endc