trab 3


.options savecurrents

.param n=1/17.78988
.param xC1=1.33u
.param xR2=0.2k


*transformer
Vprimario 0 3 dc 0 ac 230 SINE(0 230 50 0 0 0)
E1 1 2 0 3 n

*full wave rectifier
D1 1 4 Default
D2 0 1 Default
D3 0 2 Default
D4 2 4 Default


*envelope detector
C1 4 0 xC1
R2 4 5 xR2


*limiter
D5 5 0 Nd


*setting up models
.model Default D
.model Nd D(N=31)

.op
.end

*transient analysis
.tran 2e-4 27.8 27.6



*calculating averages
.measure tran av_volt_6 AVG v(5) from=27.6 to=27.8
.measure tran abs_av_volt param='abs(av_volt_6-12)'

*maximum and minimum values
.measure tran maxvolt_6 MAX v(5) from=27.6 to=27.8
.measure tran minvolt_6 MIN v(5) from=27.6 to=27.8
.measure tran ripples param='abs(maxvolt_6 - minvolt_6)'
.measure tran cost param='(31+4)*0.1 + (xC1)*10^6 + (xR2)*10^(-3)'
.measure tran merit param='1 / (cost * (ripples + abs_av_volt + 10^(-6)))'


.control
run

let media = mean(v(5))
let media-12 = mean(v(5)) - 12 
let ripples = maximum(v(5))-minimum(v(5))
let merit = 1/(((31+4)*0.1 + 1.33 + 0.2)*({maximum(v(5))-minimum(v(5))} + abs(mean(v(5)) - 12) + 0.000001))

echo "op_TAB"
print media
print media-12
print ripples
print merit
echo "op_END"


echo "op2_TAB"
print merit
echo "op2_END"

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

echo "********************************************"
echo "Transient analysis"
echo "********************************************"


hardcopy antes.ps v(4)
echo antes_FIG
hardcopy zauzau.ps v(5)
echo zauzau_FIG
hardcopy deviation.ps v(5)-12
echo deviation_FIG
hardcopy acdc.ps v(5) v(3)
echo acdc_FIG

.endc 